US06953802B2
A solution of (R)-3-(5-(2-fluorophenyl)-2-(N-cyclohexyl-N-methylamino)-pyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propanoic acid ethyl ester (1.0 eq), DMAP (1.0 eq), Et3N (1.2 eq) and dimethylcarbamyl chloride (1.2 eq) in CH2Cl2 was stirred at 22° C. for 8 hr. The mixture was diluted with EtOAc, and the resulting solution was washed successively with water, 0.5 M citric acid, sat. NaHCO3 and sat. NaCl. The CH2Cl2/EtOAc extracts were treated with MgSO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel using 6:4 hexanes/EtOAc to give (R)-3-(5-(2-fluorophenyl)-2-(N-cyclohexyl-N-methylamino)pyrimidin-4-ylamino)-3-(4-(dimethylaminocarbonyl)oxyphenyl)propanoic acid ethyl ester.

reactant | (R)-3-(5-(2-fluorophenyl)-2-(N-cyclohexyl-N-methylamino)-pyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propanoic acid ethyl ester | 1.0 eq | C(C)OC(C[C@H](C1=CC=C(C=C1)O)NC1=NC(=NC=C1C1=C(C=CC=C1)F)N(C)C1CCCCC1)=O | C28H33FN4O3
reactant | Et3N | 1.2 eq | CCN(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 1.2 eq | CN(C(=O)Cl)C | C3H6ClNO
catalyst | DMAP | 1.0 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-3-(5-(2-fluorophenyl)-2-(N-cyclohexyl-N-methylamino)pyrimidin-4-ylamino)-3-(4-(dimethylaminocarbonyl)oxyphenyl)propanoic acid ethyl ester | C(C)OC(C[C@H](C1=CC=C(C=C1)OC(=O)N(C)C)NC1=NC(=NC=C1C1=C(C=CC=C1)F)N(C)C1CCCCC1)=O | C31H38FN5O4
